US04043796
16 ml of chlorosulfuric acid were added dropwise at -25° C to a mixture of 30 g of diisopropyl disulfide in 200 ml of methylene chloride and the mixture was stirred at -5° C and then was cooled at -30° C. A mixture of 38.5 g of N-methyl-N'-(4-isopropylphenyl)-urea in 280 ml of pyridine was added to the reaction mixture which was then stirred at -15° C for one hour and was then poured into a water, ice, hydrochloric acid and methylene chloride mixture. The decanted organic phase was dried and evaporated to dryness and the residue was chromatographed over silica gel. Elution with a 95-5 benzeneethyl acetate mixture yielded 29 g of N-methyl-N-isopropylthio -N'-(4-isopropylphenyl)-urea in the form of a yellow oil.

reactant | chlorosulfuric acid | 16 ml | S(O)(=O)(=O)Cl | ClHO3S
reactant | diisopropyl disulfide | 30 g | C(C)(C)SSC(C)C | C6H14S2
reactant | N-methyl-N'-(4-isopropylphenyl)-urea | 38.5 g | CNC(=O)NC1=CC=C(C=C1)C(C)C | C11H16N2O
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 280 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-methyl-N-isopropylthio -N'-(4-isopropylphenyl)-urea | 29 g | CN(C(=O)NC1=CC=C(C=C1)C(C)C)SC(C)C | C14H22N2OS
